US05457192
1.28 g (10.0 mmol) of 1,6-anhydro-3,4-dideoxy-β-D-threo-hex-3-enopyranose, 5.25 g (20.0 mmol) of triphenyl phosphine, and 3.80 g (20.0 mmol) of 3,5-dichlorobenzoic acid were added to 16 ml of dry THF, and a solution obtained by dissolving 3.48 g (20.0 mmol) of diethylazodicarboxylate in 16 ml of dry THF was gradually dropped in the above mixture in a nitrogen-sealed ice-water bath. The resultant solution was stirred at room temperature for 41 hours. The solvent was distilled from the reaction solution at a reduced pressure. Triphenyl phosphine oxide as a byproduct was eliminated from the residue using a silica gel column (eluent: chloroform). The solvent was distilled from the resultant eluate at a reduced pressure, and the residue was purified using a silica gel column (hexane:ethyl acetate=6:1) to obtain 2.34 g (yield: 77.7%) of 1,6-anhydro-2-O-(3,5-dichlorobenzoyl)-3,4-dideoxy-β-D-erythro-hex-3-enopyranose. This product was recrystallized from a solvent mixture of hexane, diethyl ether, and chloroform.

reactant | 1,6-anhydro-3,4-dideoxy-β-D-threo-hex-3-enopyranose | 10.0 mmol, 1.28 g | [C@H]12[C@@H](O)C=C[C@H](O1)CO2 | C6H8O3
reactant | triphenyl phosphine | 20.0 mmol, 5.25 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3,5-dichlorobenzoic acid | 20.0 mmol, 3.80 g | ClC=1C=C(C(=O)O)C=C(C1)Cl | C7H4Cl2O2
reactant | diethylazodicarboxylate | 20.0 mmol, 3.48 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 16 ml | C1CCOC1 | C4H8O
solvent | THF | 16 ml | C1CCOC1 | C4H8O
product | 1,6-anhydro-2-O-(3,5-dichlorobenzoyl)-3,4-dideoxy-β-D-erythro-hex-3-enopyranose | 2.34 g, yield: 77.7% | ClC=1C=C(C(=O)O[C@H]2[C@H]3O[C@@H](C=C2)CO3)C=C(C1)Cl | C13H10Cl2O4
